US06093714
To a solution of 2-amino-4-trifluoromethylbenzoic acid (4.56 g, 22.2 mmol), prepared in the step (a), in tetrahydrofuran (100 ml) were added 10 M borane-dimethyl sulfide complex (4.4 ml, 44.0 mmol) and trimethyl borate (10 ml). The mixture was stirred under ice cooling for 10 min, at room temperature for 15 min, and at 45° C. for 17 hr. Subsequently, 2 ml of 10 M borane-dimethyl sulfide complex was added thereto, and a reaction was allowed to proceed at 45° C. for 15 hr. Thereafter, methanol was added to the reaction mixture under ice cooling to terminate the reaction. The reaction mixture was concentrated under reduced pressure, and the resultant powder was collected by filtration, washed with hexane, and then dried to give 2-amino-4-trifluoromethyl-1-hydroxymethylbenzene (4.08 g, 96%) as yellowish green powder.

reactant | 2-amino-4-trifluoromethylbenzoic acid | 22.2 mmol, 4.56 g | NC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C8H6F3NO2
reactant | trimethyl borate | 10 ml | B(OC)(OC)OC | C3H9BO3
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-amino-4-trifluoromethyl-1-hydroxymethylbenzene | 4.08 g, 96% | NC1=C(C=CC(=C1)C(F)(F)F)CO | C8H8F3NO
